* C:\Users\sebah\OneDrive\Escritorio\imsated\ltspicemod\osciladores\Draft3.asc
Q1 N002 N001 0 0 2N2222
V1 N003 0 5
R1 N001 N003 1
L1 N001 N002 0.01
XU1 N002 0 memristorR1 Ron=100 Roff=10k Rini=5k
C1 N002 0 1000µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\sebah\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 1000m 0
.lib C:\Users\sebah\OneDrive\Escritorio\imsated\ltspicemod\osciladores\memresitR1.txt
.backanno
.end
