* C:\Users\sebah\OneDrive\Escritorio\imsated\ltspicemod\osciladores\colpitts_osc_ltspice_Memresistor_Cx.asc
C3 N002 0 0.1µ
C4 1+ N003 0.1µ
V1 Vp 0 3
C1 Vp N001 100µ
C2 N001 N003 47µ
L1 Vp N003 1
XU1 Vp N002 memristorR1 Ron=100 Roff=10k Rini=5k
R1 N001 0 100
R2 N002 0 {Rx}
Q1 N003 N002 N001 0 NPN
.model NPN NPN
.model PNP PNP
.lib C:\Users\sebah\AppData\Local\LTspice\lib\cmp\standard.bjt
* Colpitts Oscillator
;tran 1000m
*.step param Cx list .1u 10u 0.10u
.step param Rx list 100 100000 1000000
.tran 0 1000m 0
.lib C:\Users\sebah\OneDrive\Escritorio\imsated\ltspicemod\osciladores\memresitR1.txt
.backanno
.end
