* C:\Users\sebah\OneDrive\Escritorio\imsated\ltspicemod\osciladores\colpitts_osc_ltspice_Memresistor_acoplado.asc
C3 N004 0 0.1µ
C4 1+ N005 0.1µ
V1 Vp 0 3
C1 Vp N002 100µ
C2 N002 N005 47µ
XU1 Vp N004 memristorR1 Ron=100 Roff=10k Rini=5k
R1 N002 0 100
R2 N004 0 1k
Q1 N005 N004 N002 0 NPN
L1 N005 Vp 1
L2 N001 N003 1
R3 N001 N003 100
.model NPN NPN
.model PNP PNP
.lib C:\Users\sebah\AppData\Local\LTspice\lib\cmp\standard.bjt
* Colpitts Oscillator
;tran 1000m
*.step param Cx list .1u 10u 0.10u
*.step param Rx 1000 100000 500
.tran 0 1000m 0
K L1 L2 0.0040
.lib C:\Users\sebah\OneDrive\Escritorio\imsated\ltspicemod\osciladores\memresitR1.txt
.backanno
.end
