* C:\Users\sebah\OneDrive\Escritorio\imsated\ltspicemod\osciladores\pruebaMEMR1.asc
V1 N001 0 SINE(0 1 1)
XU1 N001 0 memristorR1 Ron=100 Roff=10k Rini=5k
.tran 0 10000m 0
.lib C:\Users\sebah\OneDrive\Escritorio\imsated\ltspicemod\osciladores\memresitR1.txt
.backanno
.end
