* C:\Users\sebah\OneDrive\Escritorio\imsated\ltspicemod\set\Draft6.asc
XU1 Vout N002 N001 0 SET C1=1E-18
XU2 Vout 0 N002 0 SET C1=1E-18
Vb N001 0 20m
Cl Vout 0 1aF
R1 Vout N002 10m
.tran 0 100m 0
.lib C:\Users\sebah\OneDrive\Escritorio\imsated\ltspicemod\set\SET1-2-3.net
.backanno
.end
