*modelo de Yu

;.macro SET_2 1 2 3


.SUBCKT SET_2 1 2 3 PARAMS:

;.param

+pi=3.1415926535897932846
+CF1=40 ;2Co/e
+CI2=0.35e-9
+CR1=118e+6
+CR2=0e+6
+CVp=0.18

V2 5 3 DC 0.18
V3 7 3 DC -0.18
RG 2 3 100G
RR1 1 3 R='CR1+CR2*cos(CF1*pi*V(2,3))'
RR2 1 4 R='CVp/(CI2-2*CVp/(CR1+CR2*cos(CF1*pi*V(2,3))))'
RR3 1 6 R='CVp/(CI2-2*CVp/(CR1+CR2*cos(CF1*pi*V(2,3))))'
D1 4 5 DIODE
D2 7 6 DIODE
.MODEL DIODE D(N=0.01)
;.eom

.ENDS SET_2
